US07314888B1
In 50 ml of methylene chloride is dissolved 5.00 g of 2,5-diisobutoxybenzoic acid. After adding 2.0 ml of oxalyl chloride and subsequently 20 μl of N,N-dimethylformamide at ambient temperature, the mixture thus obtained is stirred at ambient temperature for one hour. Then, 7.51 g of aluminum chloride and subsequently 5.17 g of ethyl 3-(2-isobutoxyphenyl)-propanoate are added at −30° C., the mixture thus obtained is stirred at −10° C. for 10 minutes. The reaction mixture is added to a mixture of chloroform and ice water and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 9.21 g of ethyl 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoate as a yellow-colored oily product.

reactant | 2,5-diisobutoxybenzoic acid | 5.00 g | C(C(C)C)OC1=C(C(=O)O)C=C(C=C1)OCC(C)C | C15H22O4
reactant | oxalyl chloride | 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 7.51 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 3-(2-isobutoxyphenyl)-propanoate | 5.17 g | C(C(C)C)OC1=C(C=CC=C1)CCC(=O)OCC | C15H22O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 20 μl | CN(C=O)C | C3H7NO
product | ethyl 3-[5-(2,5-diisobutoxybenzoyl)-2-isobutoxyphenyl]propanoate | 9.21 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OCC(C)C)C=C(C=C1)OCC(C)C | C30H42O6
